US09145415B2
To 2-amino-6-ethynylpyridine (G55, 203 mg) synthesized according to the method described in WO2012/052451 A1, N-Boc-N-methyl-L-alanine (524 mg), and O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (1.31 g), N,N-diisopropylethylamine (1.2 mL) and N,N-dimethylformamide (4.5 mL) were added at room temperature, and the mixture was stirred at 45° C. for 12 hours. The reaction mixture was cooled on ice, and then saturated aqueous sodium hydrogencarbonate and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain tert-butyl (1-((6-ethynylpyridin-2-yl)amino)-1-oxopropan-2-yl)(methyl)carbamate (G56, 180 mg) as white solid.

reactant | 2-amino-6-ethynylpyridine | NC1=NC(=CC=C1)C#C | C7H6N2
reactant | N-Boc-N-methyl-L-alanine | 524 mg | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 1.31 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 1.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 4.5 mL | CN(C=O)C | C3H7NO
product | tert-butyl (1-((6-ethynylpyridin-2-yl)amino)-1-oxopropan-2-yl)(methyl)carbamate | 180 mg | C(#C)C1=CC=CC(=N1)NC(C(C)N(C(OC(C)(C)C)=O)C)=O | C16H21N3O3
